US07358248B2
(2R)-2-tert-Butoxycarbonylamino-3-{4-[2-(5-fluoro-indol-1-yl)-acetylamino]-phenylmethanesulfinyl}-propionic acid
To a stirred solution of (2R)-2-tert-butoxycarbonylamino-3-{4-[2-(5-fluoro-indol-1-yl)-acetylamino]-benzylsulfanyl}-propionic acid (460 mg, 0.917 mmol) in acetic acid (20 mL) was added sodium perborate tetrahydrate (148 mg, 0.963 mmol). This solution was stirred at 40° C. until complete (TLC: 20% methanol in dichloromethane), then cooled to room temperature, diluted with ethyl acetate (100 mL), washed sequentially with water and brine, dried over anhydrous MgSO4, filtered and concentrated in vacuo. Purification by flash chromatography (SiO2; 10-20% methanol in dichloromethane as eluent) yielded the titled compound as a 1:1 mixture of diastereomers as an off-white solid. Rf=0.09 (20% methanol in dichloromethane); 1H NMR (DMSO-d6, 300 MHz) δ 7.32 (2H, d, J=9 Hz, Ar—H), 7.44-7.34 (2H, m, Ar—H), 7.31-7.19 (3H, m, Ar—H), 6.94 (1H, td, J=9, 2.5 Hz, 6.43 (1H, d, J=3 Hz, Ar—H), 5.07 (2H, s, NCH2CO), 4.23-3.80 (3H, m, PhCH2S and CHN), 2.87 (2H, m, CH2CHN), 1.37 and 1.35 (both 4.5H, s, CMe3 diastereomers); ESI-LCMS e/z calculated for C25H28FN3O6S 517.168, found 518 (M+H)+, 540 (M+Na)+.

reactant | (2R)-2-tert-butoxycarbonylamino-3-{4-[2-(5-fluoro-indol-1-yl)-acetylamino]-benzylsulfanyl}-propionic acid | 0.917 mmol, 460 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CSCC1=CC=C(C=C1)NC(CN1C=CC2=CC(=CC=C12)F)=O | C25H28FN3O5S
reactant | sodium perborate tetrahydrate | 0.963 mmol, 148 mg | B1(OO1)[O-].O.O.O.O.[Na+]
reactant | methanol | CO | CH4O
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (2R)-2-tert-Butoxycarbonylamino-3-{4-[2-(5-fluoro-indol-1-yl)-acetylamino]-phenylmethanesulfinyl}-propionic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CS(=O)CC1=CC=C(C=C1)NC(CN1C=CC2=CC(=CC=C12)F)=O | C25H28FN3O6S
